US06531479B2
{4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl}-(3-nitro-phenyl)-amine {12}
A mixture of 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone (1.0 mmol, 0.21 g) and N-(3-nitro-phenyl)-guanidine nitrate (1.0 mmol, 0.24 g) in 2-methoxyethanol (5 mL) was treated with NaOH (40 mg). The reaction mixture was refluxed under N2 for 20 h. The solvent was evaporated and the residue was purified by flash chromatography (EtOAc/PE, 5:1) and recrystallisation from EtOAc/MeOH to afford the title compound as a yellow solid (151 mg, 46%). M.p. 176-178° C. LC-MS: m/z=328 (M+1). C15H13N5O2S requires: C, 55.03; H, 4.00; N, 21.39; found: C, 54.67; H, 3.88; N, 21.77. 1H-NMR (300 MHz, CDCl3) δ 2.72 (s, 3H, CH3), 2.74 (s, 3H, CH3), 7.06 (d, 1H, J=5.3 Hz, pyrimidinyl-H), 7.74-7.92 (m, 3H, Ph-H), 8.46 (d, 1H, J=5.3 Hz, pyrimidinyl-H), 8.91 (t, 1H, J=4.3, 2.1 Hz, Ph-H).

reactant | 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone | 1.0 mmol, 0.21 g | CC1=C(SC(=N1)C)/C=C/C(=O)N(C)C | C10H14N2OS
reactant | N-(3-nitro-phenyl)-guanidine nitrate | 1.0 mmol, 0.24 g | [N+](=O)(O)[O-].[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
reactant | NaOH | 40 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | {4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl}-(3-nitro-phenyl)-amine | 151 mg, 46% | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C15H13N5O2S
